US03985888
Two hundred (200) grams (0.76 M) of 3-phenyl-2,6-dioxopiperidine-3-propionic acid, prepared by the method of Koelsch, J. Org. Chem., 25, 164 (1960), and 500 ml of concentrated sulfuric acid were heated on a steam bath with stirring for 1.5 hours. The mixture was cooled to room temperature and poured over crushed ice with stirring. The light tan colored precipitate which separated was water washed and filtered. This material was combined with a second crop which separated on standing and both were stirred in water and treated with five percent sodium carbonate solution until just alkaline. The precipitate was collected and water washed. The precipitate was recrystallized from acetone to give a total of 144.6 grams (82.4%) of 2,3-dihydrospiro-[naphthalene-1(4H), 3'-piperidine]-2',4,6'-trione, melting point 198°-200° C.

reactant | 3-phenyl-2,6-dioxopiperidine-3-propionic acid | 0.76 M | C1(=CC=CC=C1)C1(C(NC(CC1)=O)=O)CCC(=O)O | C14H15NO4
solvent | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dihydrospiro-[naphthalene-1(4H), 3'-piperidine]-2',4,6'-trione | 144.6 grams, 82.4% | N1C(C2(CCC1=O)CCC(C1=CC=CC=C12)=O)=O | C14H13NO3
